US04720500
A mixture consisting of 2-amino-7-chloro-1,8-naphthyridine (1.8 g), 4-chlorophenol (12.85 g) and 85% strength potassium hydroxide pellets (1.1 g) is heated for 8 hours at 140° C. The reaction mixture is poured into distilled water (200 cc) and made alkaline to a pH of 10 with 4N sodium hydroxide. The suspension obtained is filtered and washed with distilled water to a pH of approximately 7. The solid obtained is air-dried to give 2-amino-7-(4-chlorophenoxy)-1,8-naphthyridine (2 g), m.p. 177° C.

reactant | 2-amino-7-chloro-1,8-naphthyridine | 1.8 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | 4-chlorophenol | 12.85 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium hydroxide | [OH-].[K+]
product | 2-amino-7-(4-chlorophenoxy)-1,8-naphthyridine | 2 g | NC1=NC2=NC(=CC=C2C=C1)OC1=CC=C(C=C1)Cl | C14H10ClN3O
